US09023846B2
Step E: 6-(2-Chlorophenyl)-2-methoxy-3-nitropyridin-4-amine
A 5 L, four neck round bottom flask equipped with mechanical stirrer, water condenser with nitrogen inlet, thermocouple, and stopper was charged with 6-chloro-2-methoxy-3-nitro-4-pyridinamine (125.30 g, 0.615 mol), 2-chlorophenylboronic acid (116.36 g, 0.744 mol), sodium carbonate (164.97 g, 1.54 mol), toluene (1.80 L), water (0.8 L), and ethanol (0.625 L) and the resulting mixture stirred to achieve a red slurry. The slurry was heated to a mild reflux for 15 min to degas solution and then the temperature was lowered to 60° C. The resulting mixture was treated with (1,1′-bis-(di-tert-butylphosphino)ferrocenepalladium(II) chloride (40.8 g, 61 mmol) and the temperature increased to 69° C., generating a mild reflux. The temperature to 60° C. and stirring was continued for 17 h. The resulting mixture was diluted into water (2 L) and ethyl acetate (1 L), then filtered through CELITE, washing with ethyl acetate (1 L). The layers of filtrate were partitioned and the aqueous further extracted with ethyl acetate (3×500 mL). The combined organics were dried (MgSO4) and concentrated to yield a dark oil. The dark oil was dissolved in dichloromethane and slurried with silica gel (325 g). The slurry was loaded onto a BIOTAGE 150M (2.5 kg silica) and eluted with dichloromethane (3 L) and ethyl acetate-dichloromethane 1:19 (9 L). Fractions of suitable purity were concentrated, lastly from heptane (500 mL) to yield the title compound as a residue. The residue (282 g) was triturated with MTBE (0.50 L), heated in water bath at 40° C. for 30 min, transferred to a mechanically stirred 5 L round bottom flask then diluted with heptane (2 L). The resulting slurry was stirred for 1 h at room temperature and the solids collected by filtration. The filter cake washed with MTBE-heptane (1:9, 500 mL) and heptane (500 mL), then dried in vacuum oven at 50° C. for 45 min to yield 6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-amine as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 3.62 (s, 1H), 4.07 (s, 3H), 6.14 (br. s., 2H), 6.69 (s, 1H), 7.30-7.40 (m, 2H), 7.42-7.52 (m, 1H), 7.59-7.66 (m, 1H)

reactant | 6-chloro-2-methoxy-3-nitro-4-pyridinamine | 0.615 mol, 125.30 g | ClC1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C6H6ClN3O3
reactant | 2-chlorophenylboronic acid | 0.744 mol, 116.36 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 1.54 mol, 164.97 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 1.80 L | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
solvent | water | 2 L | O | H2O
solvent | ethanol | 0.625 L | C(C)O | C2H6O
solvent | water | 0.8 L | O | H2O
product | 6-(2-Chlorophenyl)-2-methoxy-3-nitropyridin-4-amine | ClC1=C(C=CC=C1)C1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C12H10ClN3O3
